* Phase D: SH_ON=1 self-heating regression (item #3 in parasitics roadmap).
*
* NDMOS200V sourcing ~92 mA at V_DS ~ 0.77 V => Pdiss ~ 71 mW.
* With Rth=80 K/W and Cth=5e-6 J/K (NDMOS200V defaults), steady-state
* V(TJ) settles to ~5.69 K above ambient with time constant Rth*Cth = 400 us.
*
* This deck verifies:
*   - .if (SH_ON==1) branch parses cleanly
*   - B_pdiss B_thvth Vsense thermal elements are instantiated
*   - V(XN.TJ) reaches its steady-state value within a few ms
*   - tran budget is respected
*
* Note: Cascoded LDMOS at SH_ON=1 is known-incompatible (multiple Vsense
* VSRC branches cause the same transient-solver issue we fixed for Vshift
* with the Rgmin shunt). Single-device self-heating is fine; cascoded
* self-heating is a known limitation. The cascoded_ldmos.cir regression
* deck runs at SH_ON=0 (default) and is unaffected.
.include "../../../autohv_bicmos180_case.lib"
.param case=0
.param PROC_ON=0
.param MM_ON=0
.param SH_ON=1

Vdd vdd 0 10
Vgs g 0 3
Rload vdd d 100
XN d g 0 NDMOS200V W=10u L=8u

.control
* Reach thermal steady state in a few ms (Rth*Cth = 400 us)
tran 50u 5m UIC
echo TRAN_OK
quit
.endc
.end
